US07053219B2
Production of N,5-dimethyl-3-phenyl-4-isoxazolecarboxamide
5-Methyl-3-pyridin-4-yl-4-isoxazole-carboxylic acid (500 mg, 2.5 mmols) obtained in Reference Example 5 was dissolved in N,N-dimethylformamide (10 ml), and methylamine hydrochloride (333 mg, 4.9 mmols), HOBt (496 mg, 3.7 mmols), WSC (702 mg, 3.7 mols) and triethylamine (1.02 ml, 7.3 mmols) were added to the solution. The reaction mixture was stirred at room temperature for 5 hours. The reaction liquid was transferred into aqueous saturated sodium bicarbonate solution, and ethyl acetate was added thereto for organic layer extraction. The liquid extract was washed with aqueous saturated sodium bicarbonate solution, and the organic layer was dried with magnesium sulfate. Then, the solvent was removed under reduced pressure, and the resulting residue was purified through silica gel column chromatography to obtain the entitled compound (360 mg, yield 66%).

reactant | methylamine hydrochloride | 4.9 mmols, 333 mg | Cl.CN
reactant | HOBt | 3.7 mmols, 496 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 3.7 mols, 702 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 7.3 mmols, 1.02 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,5-dimethyl-3-phenyl-4-isoxazolecarboxamide | 360 mg, yield 66% | CNC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H12N2O2
